US20010047105A1
Following the procedure described for Preparation 8, Step C, 5-[4-(4-fluoro-phenyl)-3-hydroxy-butyl]-pyrrolidin-2-one (1.95 g, 7.79 mmol) was reacted with tert-butyidimethylsilyl chloride (1.47 g, 9.76 mmol). Purification by medium pressure chromatography (1% MeOH in CH2Cl2) provided 5-[3-(tert-butyl-dimethyl-silanyloxy)-4-(4-fluoro-phenyl)-butyl]-pyrrolidin-2-one. 1H NMR (CDCl3) δ7.12 (m, 2H), 6.97 (m, 2H), 5.75 (m, 1H), 3.83 (m, 1H), 3.60 (m, 1H), 2.71 (m, 2H), 2.36-2.24 (m, 3H), 1.70-1.38 (m, 5H), 0.84 (s, 9H), −0.05 (d, 3H), -0.2 (d, 3H).

reactant | 5-[4-(4-fluoro-phenyl)-3-hydroxy-butyl]-pyrrolidin-2-one | 7.79 mmol, 1.95 g | FC1=CC=C(C=C1)CC(CCC1CCC(N1)=O)O | C14H18FNO2
reactant | tert-butyidimethylsilyl chloride | 9.76 mmol, 1.47 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
product | 5-[3-(tert-butyl-dimethyl-silanyloxy)-4-(4-fluoro-phenyl)-butyl]-pyrrolidin-2-one | C(C)(C)(C)[Si](OC(CCC1CCC(N1)=O)CC1=CC=C(C=C1)F)(C)C | C20H32FNO2Si
